US05466701
A mixture of 4-sec-butyl-6-methoxysaccharin (3 g), toluene, potassium t-butoxide (1.4 g), and tetrabutylammonium bromide (0.4 g) was brought to reflux and phenylchloromethyl sulfide (1.8 mL) was added. The reaction mixture was refluxed for about 27 hours, the solvent was removed in vacuo, the residue was extracted with ethyl acetate, washed with brine and dried over Na2SO4. The solvent was removed in vacuo and the residue was purified by column chromatography on silica eluting with 10% ethyl acetate/hexane to afford 2.63 g (60%) of 2-phenylthiomethyl-4-sec-butyl-6-methoxysaccharin.

reactant | 4-sec-butyl-6-methoxysaccharin | 3 g | C(C)(CC)C1=C2C(NS(=O)(=O)C2=CC(=C1)OC)=O | C12H15NO4S
reactant | potassium t-butoxide | 1.4 g | CC(C)([O-])C.[K+]
reactant | phenylchloromethyl sulfide | 1.8 mL | C1(=CC=CC=C1)C(Cl)SC(C1=CC=CC=C1)Cl | C14H12Cl2S
reactant | toluene | C1(=CC=CC=C1)C | C7H8
catalyst | tetrabutylammonium bromide | 0.4 g | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
product | 2-phenylthiomethyl-4-sec-butyl-6-methoxysaccharin | 2.63 g, 60% | C1(=CC=CC=C1)SCN1S(=O)(=O)C2=CC(=CC(=C2C1=O)C(C)CC)OC | C19H21NO4S2
